US07368578B2
To a mixture of {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}methanol (0.50 g), tributylphosphine (0.61 g), 1H-1,2,4-triazole (0.21 g) and tetrahydrofuran (80 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.75 g) at room temperature, and the mixture was stirred for 15 hrs. Ethyl acetate was added to the reaction mixture. The ethyl acetate layer was washed successively with 1N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 1-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}methyl)-1H-1,2,4-triazole as crystals (0.47 g, yield 85%) from a fraction eluted with ethyl acetate-hexane (2:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 95-96° C.

reactant | {3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}methanol | 0.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)CO)C2=CC=CC=C2)C=C1)OC)C | C27H25N3O6
reactant | tributylphosphine | 0.61 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1H-1,2,4-triazole | 0.21 g | N1N=CN=C1 | C2H3N3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.75 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1-({3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-5-yl}methyl)-1H-1,2,4-triazole | 0.47 g, yield 85% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C(=C2)CN2N=CN=C2)C2=CC=CC=C2)C=C1)OC)C | C29H26N6O5
